US06767906B2
To a solution of 2,6-dichloropurine (20 g, 106 mmol) in 400 ml of ethanol are added 36.5 ml of aniline (400 mmol) and the resulting solution is kept at 50° C. under magnetic stirring for 12 h. After cooling to RT, the mixture is filtered, washed with 2×50 ml of ethanol and dried at 50° C. under HV to give 2-chloro-6-(phenyl-amino)-purine as a yellow powder (25.5 g, 104 mmoles) in 98% yield. Rf=0.57 (CH2Cl2/MeOH (95/5); m.p. decomp. >290° C.; ESI-MS: 246 (M+H)+; 1H—NMR (d6-DMSO, 200 MHz, TMS): 7.1 ppm (t, 1H, J=8 Hz, H6), 7.35 ppm (t, 2H, J=8 Hz, H5), 7.8 ppm (d, 2H, J=8 Hz, H4), 8.3 ppm (s, 1H, H2), 10.1 ppm (s, 1H, H3),

reactant | 2,6-dichloropurine | 106 mmol, 20 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | aniline | 400 mmol, 36.5 ml | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-chloro-6-(phenyl-amino)-purine | 104 mmoles, 25.5 g, 98% yield | ClC1=NC(=C2NC=NC2=N1)NC1=CC=CC=C1 | C11H8ClN5
